US04329351
Into a flame dried flask under N2 was placed DMF (150 mL), NaH (50% oil dispersion, 4.0 g, 0.08 mol) and 2-chloro-5-hydroxy-3-methylpyridine (11.7 g, 0.08 mol). The solution was stirred at 0°-5° C. until the evolution of H2 ceased and then a solution of CH3I (5.6 mL, 0.09 mol) in DMF (50 mL) was added dropwise. After the addition, the solution was allowed to stir at room temperature overnight. The resulting slurry was added to H2O and extracted with Et2 0 (3×). The organic layer was concentrated and the residue distilled at 85° C. (0.6 mm) to yield 12.8 g of 2-chloro-5-methoxy-3-methylpyridine (95%) as an oil; 1H NMR (CDCl3) δ2.35 (3H, s), 3.8 (3H, s), 7.1 (1H, d, J=3) and 7.9 (1H, d, J=3); MS m/e (M+) 157.

reactant | NaH | 0.08 mol, 4.0 g | [H-].[Na+]
reactant | 2-chloro-5-hydroxy-3-methylpyridine | 0.08 mol, 11.7 g | ClC1=NC=C(C=C1C)O | C6H6ClNO
reactant | CH3I | 0.09 mol, 5.6 mL | CI | CH3I
reactant | H2O | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | 2-chloro-5-methoxy-3-methylpyridine | 12.8 g, 95% | ClC1=NC=C(C=C1C)OC | C7H8ClNO
